US04267327
To a solution of 2-hydroxymethyl-5-methylpyrazine (6.2 g) and triethylamine (6.4 ml) in anhydrous benzene (150 ml) dropwise addition was made of a solution of pivaloyl chloride (6.15 ml) in anhydrous benzene (50 ml). The solution was maintained at boiling for 7 hours, the solvent was then evaporated and the residue treated with acetone. After filtration of the insoluble solid, the filtrate was evaporated to dryness and the residue re-dissolved in chloroform. The chloroform solution was first dehydrated and then evaporated to dryness, obtaining 7 g (71.5%) of 5-methyl-2-pyrazinylmethyl pivalate, b.p.=74° C./0.1 mmHg.

reactant | 2-hydroxymethyl-5-methylpyrazine | 6.2 g | OCC1=NC=C(N=C1)C | C6H8N2O
reactant | triethylamine | 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 6.15 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-methyl-2-pyrazinylmethyl pivalate | 7 g, 71.5% | C(C(C)(C)C)(=O)OCC1=NC=C(N=C1)C | C11H16N2O2
